US07723368B2
Step 1) [3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid methyl ester
3-(3-Bromo-phenyl)-cyclobutanone (2.00 g, 8.89 mmol) and Triphenyl-phosphoranylidene acetic acid methyl ester (8.33 g, 24.9 mmol) were dissolved in dichloromethane (30 mL) inside a CEM 80 ml microwave vessel. The solution was irradiated in a CEM Discover™ microwave instrument for 30 minutes at 120° C. Pressure reached a maximum of 180 PSI. Purification by column chromatography (isocratic elution; 10% diethyl ether in hexanes) afforded 2.49 gm of a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.90-3.00 (m, 1H) 3.02-3.14 (m, 1H) 3.17-3.28 (m, 1H) 3.46-3.58 (m, 1H) 3.62 (s, 3H) 3.63-3.71 (m, 1H) 5.74 (q, J=3.0 Hz, 1H) 7.27-7.35 (m, 2H) 7.39-7.43 (m, 1H) 7.50 (t, J=1.9 Hz, 1H); MS (EI) m/z 280 [M+.].

reactant | 3-(3-Bromo-phenyl)-cyclobutanone | 8.89 mmol, 2.00 g | BrC=1C=C(C=CC1)C1CC(C1)=O | C10H9BrO
reactant | Triphenyl-phosphoranylidene acetic acid methyl ester | 24.9 mmol, 8.33 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | [3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid methyl ester | 2.49 gm | COC(C=C1CC(C1)C1=CC(=CC=C1)Br)=O | C13H13BrO2
